US06762189B1
Preparation of 4-(1H-5-Indazolylamino)-2-methylthio-5-pyrimidinecarboxilic Acid Ethyl Ester
To the solution of 4-chloro-2-methylthio-5-pyrimidine carboxylic acid ethyl ester (5 g) and 5-aminoindazole (3.15 g) in methanol (70 ml) was added triethylamine (3.5 ml), and then the solution was reacted at 30° C. for 3 hr. The reaction mixture was cooled at room temperature, stirred at 20° C. for 1 hr. Then the reaction mixture was filtered and washed with methanol (20 ml). The obtained solid was dried at 40-50° C. in vacuo to obtain the desired compound (6.15 g, 87%).

reactant | 4-chloro-2-methylthio-5-pyrimidine carboxylic acid ethyl ester | 5 g | C(C)OC(=O)C=1C(=NC(=NC1)SC)Cl | C8H9ClN2O2S
reactant | 5-aminoindazole | 3.15 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 70 ml | CO | CH4O
product | 4-(1H-5-Indazolylamino)-2-methylthio-5-pyrimidinecarboxilic Acid Ethyl Ester | 6.15 g, 87% | C(C)OC(=O)C=1C(=NC(=NC1)SC)NC=1C=C2C=NNC2=CC1 | C15H15N5O2S
